US06291452B1
A mixture of (3RS)-1-[(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl]-2,3-dihydro-5-(2-fluorophenyl)-3-(imidazol-1-yl)carbonylamino-9-methyl-1H-1,4-benzodiazepin-2-one (250 mg), 3-aminophenol (55 mg) and triethylamine (93 mg) in N,N-dimethylformamide (1 ml) was stirred at 100° C. for 1 hour. After the reaction mixture was allowed to cool to room temperature, ethyl acetate and 1N aqueous hydrochloric acid were added thereto. The separated organic layer was washed with 1N aqueous hydrochloric acid, water, saturated aqueous sodium bicarbonate and brine successively, and then dried over magnesium sulfate. The solvent was evaporated in vacuo to give a colorless paste, which was washed with diisopropyl ether and collected by filtration to afford N-[(3RS)-1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl-2,3-dihydro-9-methyl-5-(2-fluorophenyl)-2-oxo-1H-1,4-benzodiazepin-3-yl]-N ′-(3-hydroxyphenyl)urea (184.0 mg, 68.5% yield) as a crystalline.

reactant | (3RS)-1-[(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl]-2,3-dihydro-5-(2-fluorophenyl)-3-(imidazol-1-yl)carbonylamino-9-methyl-1H-1,4-benzodiazepin-2-one | 250 mg | C12CN(CC(CC1)CC2)C(=O)CN2C(C(N=C(C1=C2C(=CC=C1)C)C1=C(C=CC=C1)F)NC(=O)N1C=NC=C1)=O | C30H31FN6O3
reactant | 3-aminophenol | 55 mg | NC=1C=C(C=CC1)O | C6H7NO
reactant | triethylamine | 93 mg | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[(3RS)-1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl-2,3-dihydro-9-methyl-5-(2-fluorophenyl)-2-oxo-1H-1,4-benzodiazepin-3-yl]-N ′-(3-hydroxyphenyl)urea | 184.0 mg, 68.5% yield | C12CN(CC(CC1)CC2)C(=O)CN2C(C(N=C(C1=C2C(=CC=C1)C)C1=C(C=CC=C1)F)NC(=O)NC1=CC(=CC=C1)O)=O | C33H34FN5O4
